US08975443B2
Diethyl Phenylphosphonate
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with palladium(II) acetate (1.4 mg, 0.00637 mmol, 0.02 equivalents), 8-(1,1′-binaphthyl-2-yl)-7,7,9,9-tetramethyl-1,4-dioxa-8-phosphaspiro[4.5]decane (3.6 mg, 0.00764 mmol, 0.024 equivalents) and ethanol (0.64 mL). To the slurry were added triethylamine (67 μL, 0.478 mmol, 1.5 equivalents), bromobenzene (34 μL, 0.318 mmol, 1 equivalent) and diethylphosphite (49 μL, 0.382 mmol, 1.2 equivalents). The vial was sealed with a crimp top and stirred at 80° C. After 24 hours, the vial was removed from the heating block, cooled to room temperature and brought out of the glovebox. The reaction solution was diluted with tetrahydrofuran (2 mL) and filtered into a tared 125-mL Erlenmeyer flask. The vial was rinsed with tetrahydrofuran (5×1 mL), followed by washing of the filter cake with tetrahydrofuran (5 mL). A wt % analysis was performed on the filtrate and an assay yield of 59% was measured versus commercially available diethyl phenylphosphonate.

reactant | 8-(1,1′-binaphthyl-2-yl)-7,7,9,9-tetramethyl-1,4-dioxa-8-phosphaspiro[4.5]decane | 0.00764 mmol, 3.6 mg, 0.024 equivalents | C1(=C(C=CC2=CC=CC=C12)P1C(CC2(OCCO2)CC1(C)C)(C)C)C1=CC=CC2=CC=CC=C12 | C31H33O2P
reactant | triethylamine | 0.478 mmol, 67 μL, 1.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | bromobenzene | 0.318 mmol, 34 μL, 1 equivalent | BrC1=CC=CC=C1 | C6H5Br
reactant | diethylphosphite | 0.382 mmol, 49 μL, 1.2 equivalents | C(C)OP(OCC)[O-]
catalyst | palladium(II) acetate | 0.00637 mmol, 1.4 mg, 0.02 equivalents | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethanol | 0.64 mL | C(C)O | C2H6O
product | Diethyl Phenylphosphonate | yield of 59% | C1(=CC=CC=C1)P(OCC)(OCC)=O | C10H15O3P
